2147-08-05 07:18:00 Physician Resident Progress Note
Chief Complaint:
   65 y/o male with hx mechanical valve on coumadin who had SAH c
   generalized seizures, treated with keppra, taken off anticoagulation
   with subsequent left MCA infarct with persistent low grade fevers, MS
   change now slightly worsened.
   24 Hour Events:
   O/N: Given his drop in HCT, he received 2 PRBC with climb in HCT from
   23.5 to 25.
   PTT prolonged to 150
s heparin held, readjusted per heparin sliding
   scale.
   His EKG yesterday showed mild QT prolongation, TWI in anterolateral
   distribution new from EKG on [**7-15**]. EKG today pending.
   Romi showed Troponins 0.02x3.
   Spiked temp to 100.8
 pancultured, no abx.
   Remained slightly hyper to normotensive.
 PICC LINE - START [**2147-8-4**] 06:00 PM
 BLOOD CULTURED - At [**2147-8-4**] 06:15 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 925 units/hour
   Other ICU medications:
   Metoprolol - [**2147-8-5**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-8-5**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.9
C (100.3
   HR: 81 (77 - 100) bpm
   BP: 116/56(69) {105/56(69) - 174/92(109)} mmHg
   RR: 19 (15 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89 kg (admission): 82 kg
   Height: 70 Inch
           Total In:
                                                                    780 mL
                                                                    305 mL
   PO:
           50 mL
   TF:
   IVF:
                                                                    212 mL
                                                                    123 mL
   Blood products:
                                                                    569 mL
                                                                    131 mL
   Total out:
                                                                    200 mL
                                                                    900 mL
   Urine:
                                                                    200 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    580 mL
                                                                   -595 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Exam, alert to person, place with some confusion, disoriented to time.
   RRR
   Unable to examine.
   Labs / Radiology
   316 K/uL
   9.0 g/dL
   147 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.7 mEq/L
   12 mg/dL
   104 mEq/L
   135 mEq/L
   25.9 %
   8.7 K/uL
        [image002.jpg]
                             [**2147-7-30**]  04:10 AM
                             [**2147-7-30**]  06:11 PM
                             [**2147-7-31**]  12:24 AM
                             [**2147-7-31**]  08:57 AM
                             [**2147-8-1**]  02:57 AM
                             [**2147-8-1**]  08:56 AM
                             [**2147-8-2**]  03:52 AM
                             [**2147-8-4**]  06:09 PM
                             [**2147-8-4**]  11:39 PM
                             [**2147-8-5**]  05:04 AM
   WBC
   9.6
   8.4
   8.8
   8.8
   8.6
   9.8
   9.1
   8.7
   Hct
   24.9
   25.9
   27.6
   27.6
   24.9
   27.0
   25.7
   23.5
   25.7
   25.9
   Plt
   [**Telephone/Fax (3) 8183**]32
   329
   348
   329
   316
   Cr
   1.1
   1.1
   1.0
   0.9
   0.9
   1.1
   TropT
   0.02
   0.02
   Glucose
   113
   101
   103
   99
   102
   147
   Other labs: PT / PTT / INR:22.4/146.9/2.1, CK / CKMB /
   Troponin-T:100/3/0.02, ALT / AST:34/43, Alk Phos / T Bili:95/1.6,
   Amylase / Lipase:55/59, Differential-Neuts:83.9 %, Lymph:11.0 %,
   Mono:3.9 %, Eos:0.9 %, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL,
   LDH:497 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 FALLS
 DELIRIUM / CONFUSION
 CVA (STROKE, CEREBRAL INFARCTION), OTHER
 ALTERATION IN NUTRITION
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 TRANSFERS, IMPAIRED
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 INTRACEREBRAL HEMORRHAGE (ICH)
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
   Fever:  Persistent, low grade, question whether secondary multiple
   hematoma, vs neurological origin.
   No abx start if becoming HD unstable, trend fever curve..
   MRSA screen pending, Urine Bcx- P.
   Retroperitoneal bleed-trend HCT. 2PIVs. Goal HCT >30.
   Volume Overload: repeat CXR, diurese x1 lasix 40 with lytes in pm.
   Hypotension: resolved with 1LNS. ? Vagal response over clear infection.
   Patient already completed VAP course, sputum likely colonizers.
   Monitor BP.
   ABX if decompensates, PanCx if spikes.
   EKG changes: deep T
s: cerebral. No other significant EKG changes.
   Patient denies chest, has some postprandial on occaision. ROMI
   completed, ruled out. Q is did he have intracranial event between EKGs
   of [**7-15**]^th and [**8-4**]^th.
   Continue BB, statin.
   Mechanical valve: stroked off anticoagulation.
   Heparin goal 40-60
   PT/OT: CS
   Arousal: In setting of recent stroke and intermittent fevers, appears
   to have fever related delirium with underlying cognitive deficits
   likely secondary to strokes.
   Reiorient avoid sedating meds.
   CAD:
   Hold ASA given recent bleed and surgeries on heparin.
   Hold isosorbide until HD stable 12 hours, then restart  at home dose
   30mg QHS.
   Hold zetia in acute setting GI SE.
   Restart statin.
   Cont BB.
   Esophageal CA s/p esophagectomy: change home nexium to protonix.
   Glaucoma: cont betimol eye drops 1gtt to left eye.
   HTN: cont BB, hold isosorbide.
   ICU Care
   Nutrition:
   Dysphagia diet as tolerated.
   Glycemic Control:  none currently, will monitor finger sticks.
   Lines:
   PICC Line - [**2147-8-4**] 06:00 PM
   20 Gauge - [**2147-8-4**] 06:00 PM
   18 Gauge - [**2147-8-4**] 07:00 PM
   Prophylaxis:
   DVT: Heparin GTT
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:icu consent signed.
   Code status: DNR
   Disposition:ICU, consider call out

2147-08-06 08:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2147-8-5**] 09:00 AM
 ULTRASOUND - At [**2147-8-5**] 09:47 AM
   No acute events o/n. Pt comfortable in bed, eating.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,075 units/hour
   Other ICU medications:
   Metoprolol - [**2147-8-6**] 06:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-8-6**] 08:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.2
C (98.9
   HR: 74 (74 - 106) bpm
   BP: 161/91(108) {121/64(76) - 169/102(118)} mmHg
   RR: 19 (14 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89 kg (admission): 82 kg
   Height: 70 Inch
             Total In:
                                                                  1,285 mL
                                                                    308 mL
   PO:
                                                                    410 mL
             TF:
   IVF:
                                                                    394 mL
                                                                    308 mL
   Blood products:
                                                                    481 mL
   Total out:
                                                                  2,950 mL
                                                                    930 mL
   Urine:
                                                                  2,950 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,665 mL
                                                                   -622 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Gen- AOx3, some difficulty find words, NAD
   HEENT- NCAT
   Pulm- CTAB
   CV- S1/S2 w/o MGR
   Abd- soft, NTND, + BS
   Ext- 1+ LE edema B/L
   Neuro- AOX3, CNII-XII grossly intact, moving all extremities equally
   Labs / Radiology
   340 K/uL
   10.6 g/dL
   104 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.4 mEq/L
   13 mg/dL
   101 mEq/L
   135 mEq/L
   31.3 %
   8.6 K/uL
        [image002.jpg]
                             [**2147-8-1**]  02:57 AM
                             [**2147-8-1**]  08:56 AM
                             [**2147-8-2**]  03:52 AM
                             [**2147-8-4**]  06:09 PM
                             [**2147-8-4**]  11:39 PM
                             [**2147-8-5**]  05:04 AM
                             [**2147-8-5**]  12:21 PM
                             [**2147-8-5**]  05:58 PM
                             [**2147-8-6**]  12:45 AM
                             [**2147-8-6**]  05:03 AM
   WBC
   8.6
   9.8
   9.1
   8.7
   8.9
   8.6
   Hct
   24.9
   27.0
   25.7
   23.5
   25.7
   25.9
   28.8
   32.5
   28.8
   31.3
   Plt
   329
   348
   329
   [**Telephone/Fax (3) 8212**]
   Cr
   1.0
   0.9
   0.9
   1.1
   1.0
   0.9
   TropT
   0.02
   0.02
   Glucose
   103
   99
   102
   147
   150
   104
   Other labs: PT / PTT / INR:22.1/44.3/2.1, CK / CKMB /
   Troponin-T:100/3/0.02, ALT / AST:36/48, Alk Phos / T Bili:101/1.4,
   Amylase / Lipase:55/59, Differential-Neuts:83.9 %, Lymph:11.0 %,
   Mono:3.9 %, Eos:0.9 %, Fibrinogen:623 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:2.7 g/dL, LDH:544 IU/L, Ca++:7.9 mg/dL, Mg++:1.4 mg/dL, PO4:2.4
   mg/dL
   Microbiology: Bcx, Ucx pending
   Assessment and Plan
 FALL(S)
 DELIRIUM / CONFUSION
 CVA (STROKE, CEREBRAL INFARCTION), OTHER
 ALTERATION IN NUTRITION
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 TRANSFERS, IMPAIRED
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 INTRACEREBRAL HEMORRHAGE (ICH)
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
   65 y/o M history of mechanical aortic valve on coumadin, CAD s/p CABG
   *3, hypertension, with recent SAH and L MCA stroke who is transferred
   to MICU for intermittent hypotension, persistent fevers, EKG changes
   and concern for RP bleed.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN): low grade
   for many weeks, unclear if neurological origin or due to underlying
   infection. Low grade fever persists.
   -  Pancultured [**8-4**] am w/ fever spike
   -f/u all cx
   - CIS q24h
   - Trend fever, curve
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS: in setting of heparin
   drip and on coumadin AGAIN!
   - trend HCT
   - 2 PIVs
   - Active T&S
   - transfuse to HCT >30
 Hypotension: resolved with 1LNS, ? vagal response rather than clear
   infection. Patient already completed prior VAP course
 sputum suggest
   pseudomonas and MSSA were colonizers.
   - monitor BP
   - ABx if decompensates
   - Pan cx if spikes
 EKG Changes: deep T
s ? cerebral. No other significant EKG changes.
   Patient denies chest pain. Does have history of intermittent chest pain
   post prandial.
   - Cont BB, statin, heparin drip
 Mechanical AVR: stroked off anticoagulation
   -continue heparin drip per protocol
   - Heparin PTT 40-60
   - while assessing RP hematoma, hold coumadin
 CVA (STROKE, CEREBRAL INFARCTION), OTHER // INTRACEREBRAL HEMORRHAGE
   (ICH): residual dyphagia, weakness, and impaired cognition.
   - q24hr neurochecks
   - heparin goal only PTT 40-60
   - PT/OT C/S
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED: in setting of recent
   stroke and intermittent fevers. Appears to have fever related delirium
   with underlying cognitive deficits likely related to recent strokes.
   - reorient
   - avoid sedating meds
 CAD:
   - hold ASA given recent bleed and surgeries and on heparin
   - hold isosorbide until HD stable 12 hrs, then restart at home dose 30
   mg QHS
   - hold zetia in acute setting given GI SE
   - cont heparin drip as above
   - cont BB
 Esophageal CA s/p esophagectomy: Change home nexium to protonix
 Glaucoma: cont betimol eye drops 1 gtt to left eye
 HTN: cont BB, hold isosorbide as above
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2147-8-4**] 06:00 PM
   Prophylaxis:
   DVT: Boots, heparin drip
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Pt and wife
   [**Name (NI) 156**] status: Full code
   Disposition:Transfer to floor, either neuro or medicine

2147-08-07 07:54:00 Physician Resident Progress Note
Chief Complaint: Previously on neuro service.
   24 Hour Events:
   No acute events o/n. neuro wishes pt to go to medicine service,
   continue q4h neuro checks
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,375 units/hour
   Other ICU medications:
   Metoprolol - [**2147-8-6**] 06:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-8-7**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 77 (61 - 90) bpm
   BP: 150/81(98) {110/65(76) - 160/97(107)} mmHg
   RR: 18 (13 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89 kg (admission): 82 kg
   Height: 70 Inch
             Total In:
                                                                    793 mL
                                                                    185 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    673 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                  1,875 mL
                                                                    200 mL
   Urine:
                                                                  1,875 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,082 mL
                                                                    -15 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   330 K/uL
   10.3 g/dL
   114 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.9 mEq/L
   12 mg/dL
   102 mEq/L
   135 mEq/L
   31.1 %
   7.8 K/uL
        [image002.jpg]
                             [**2147-8-2**]  03:52 AM
                             [**2147-8-4**]  06:09 PM
                             [**2147-8-4**]  11:39 PM
                             [**2147-8-5**]  05:04 AM
                             [**2147-8-5**]  12:21 PM
                             [**2147-8-5**]  05:58 PM
                             [**2147-8-6**]  12:45 AM
                             [**2147-8-6**]  05:03 AM
                             [**2147-8-6**]  03:36 PM
                             [**2147-8-7**]  03:05 AM
   WBC
   9.8
   9.1
   8.7
   8.9
   8.6
   7.8
   Hct
   25.7
   23.5
   25.7
   25.9
   28.8
   32.5
   28.8
   31.3
   32.8
   31.1
   Plt
   348
   329
   316
   [**Telephone/Fax (3) 8220**]
   Cr
   0.9
   0.9
   1.1
   1.0
   0.9
   1.0
   TropT
   0.02
   0.02
   Glucose
   99
   102
   147
   150
   104
   114
   Other labs: PT / PTT / INR:24.2/64.2/2.3, CK / CKMB /
   Troponin-T:100/3/0.02, ALT / AST:39/51, Alk Phos / T Bili:97/1.2,
   Amylase / Lipase:55/59, Differential-Neuts:76.0 %, Lymph:16.6 %,
   Mono:5.3 %, Eos:1.8 %, Fibrinogen:623 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:3.0 g/dL, LDH:510 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 FALL(S)
 DELIRIUM / CONFUSION
 CVA (STROKE, CEREBRAL INFARCTION), OTHER
 ALTERATION IN NUTRITION
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 TRANSFERS, IMPAIRED
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 INTRACEREBRAL HEMORRHAGE (ICH)
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2147-8-4**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: